US07091217B2
AMD9685: Preparation of 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzaldehyde oxime
To a stirred solution of N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (200 mg, 0.50 mmol) in MeOH (5 mL) was added solid sodium tungstate dihydrate (332 mg, 1.0 mmol) followed by a 35 wt % aqueous solution of hydrogen peroxide (2.9 mL, 30 mmol). The resulting suspension was stirred 3 h, then saturated aqueous sodium bicarbonate (5 mL) was added. The phases were separated and the aqueous layer was extracted with CH2Cl2 (3×10 mL), then the combined organic extracts were washed once with brine (10 mL), dried (MgSO4), and concentrated in vacuo. Purification of the crude material by flash chromatography (silica gel, 75:1:1 CH2Cl2MeOH/NH4OH) afforded the title compound (130 mg, 63%) as a white solid. 1H NMR (CDCl3) δ 1.63–1.66 (m, 1H), 1.97–2.07 (m, 2H), 2.25–2.27 (m, 1H), 2.66–2.72 (m, 1H), 2.80–2.85 (m, 1H), 3.65 (d, 1H, J=14 Hz), 3.71 (d, 1H, J=14 Hz), 5.03 (d, 1H, J=16 Hz), 4.14 (dd, 1H, J=9, 7 Hz), 4.21 (d, 1H, J=16 Hz), 7.11–7.19 (m, 3H), 7.41–7.48 (m, 6H), 7.65 (br d, 1H, J=5 Hz), 8.18 (s, 1H), 8.67 (dd, 1H, J=5, 1 Hz); 13C NMR (CDCl3) δ 22.2, 23.9, 30.2, 49.5, 55.0, 61.2, 112.1, 119.4, 122.7, 123.3, 127.8, 130.1, 133.0, 136.2, 138.7, 141.4, 147.8, 150.0, 156.2, 157.7. ES-MS m/z 412 (M+H). Anal. Calcd. for C25H25N5O.0.4H2O.0.3CH2Cl2: C, 68.41; H, 5.99; N, 15.77. Found: C, 68.57; H, 5.86; N, 15.48.

reactant | N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.50 mmol, 200 mg | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | hydrogen peroxide | 30 mmol, 2.9 mL | OO | H2O2
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | sodium tungstate dihydrate | 1.0 mmol, 332 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzaldehyde oxime | 130 mg, 63% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C=NO)C=C2 | C25H25N5O
